US07713994B2
′2-[(4-nitrophenoxy)methyl]pyridine
An amount of 1.36 mL (14.14 mmol) of pyridin-2-yl-methanol is dissolved in N,N-dimethylformamide (10 mL) and cooled to 0° C., addition of 678.72 mg (28.28 mmol) of sodium hydride followed. The reaction mixture is kept at 0° C. for 1.5 hours. 1-Fluoro-4-nitrobenzene 1.5 mL (14.14 mmol) is subsequent added and stirred at room temperature overnight. 100 mL of water is added to the mixture and stirred for 10 more mins. The precipitate is filtered and washed many times with water. The white solid is re-dissolved in methylene chloride extracted three times with brine, dried over darko and magnesium sulfate, and evaporated to give the desired product as a white solid 2.7 g (85% yield); mp: 116-117° C.

reactant | pyridin-2-yl-methanol | 14.14 mmol, 1.36 mL | N1=C(C=CC=C1)CO | C6H7NO
reactant | sodium hydride | 28.28 mmol, 678.72 mg | [H-].[Na+]
reactant | 1-Fluoro-4-nitrobenzene | 14.14 mmol, 1.5 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-[(4-nitrophenoxy)methyl]pyridine | 2.7 g, 85% yield | [N+](=O)([O-])C1=CC=C(OCC2=NC=CC=C2)C=C1 | C12H10N2O3
